US07112584B2
43.2 mg of (+)-6-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one in 2.5 ml of dichloromethane and 0.4 ml of 1 M boron tribromide in dichloromethane are stirred for 1.5 hours at 0° C. and mixed with ethyl acetate and sodium bicarbonate solution. The organic phase is washed with water, dried, concentrated by evaporation, and the residue is chromatographed on silica gel (hexane/ethyl acetate, 1.5+1). After crystallization from diisopropyl ether, 34 mg of (+)-6-[4-(5-bromo-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one is obtained.

reactant | (+)-6-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one | 43.2 mg | BrC=1C=CC(=C(C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C)OC | C23H22BrF3N2O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | boron tribromide | 1 M, 0.4 ml | B(Br)(Br)Br | BBr3
product | (+)-6-[4-(5-bromo-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one | 34 mg | BrC=1C=CC(=C(C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C)O | C22H20BrF3N2O5
